US04239887
3-Amino-2-cyano-6-methylthieno[2,3-b]pyridine
To a solution of 7.5 g. (0.05 mole) of 2-mercapto-3-cyano-6-methylpyridine in 200 ml. of MeOH was added 5.4 g. (0.1 M) sodium methoxide. Stirring was continued until all dissolved. 8.0 g. (0.1 M) of chloroacetonitrile in 20 ml. methanol was then added and the mixture was refluxed for 6 hours. After removal of the solvent, the residue was diluted with water and filtered. The crude product was crystallized from methanol, m.p. 241°-242° C. (Offin No. 2,241,717 in 3/4/74 reported m.p. 241°-243°).

reactant | 2-mercapto-3-cyano-6-methylpyridine | 0.05 mole | SC1=NC(=CC=C1C#N)C | C7H6N2S
reactant | sodium methoxide | 0.1 M | C[O-].[Na+]
reactant | chloroacetonitrile | 0.1 M | ClCC#N | C2H2ClN
solvent | methanol | CO | CH4O
product | 3-Amino-2-cyano-6-methylthieno[2,3-b]pyridine | NC1=C(SC2=NC(=CC=C21)C)C#N | C9H7N3S
